US04134980
1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-2-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-ethane hydrochloride was prepared analogous to Example 1 (b) by reaction of 1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-2-bromoethane with N-(3,4-dimethoxy-phenyl ethyl)-N-methyl amine in chlorobenzene. M.p.: 205 - 208° C.

reactant | 1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-2-bromoethane | COC=1C=C2C(N(C=NC2=CC1OC)CCBr)=O | C12H13BrN2O3
reactant | N-(3,4-dimethoxy-phenyl ethyl)-N-methyl amine | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-2-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-ethane hydrochloride | Cl.COC=1C=C2C(N(C=NC2=CC1OC)CCN(CCC1=CC(=C(C=C1)OC)OC)C)=O | InChI=1S/C23H29N3O5.ClH/c1-25(9-8-16-6-7-19(28-2)20(12-16)29-3)10-11-26-15-24-18-14-22(31-5)21(30-4)13-17(18)23(26)27;/h6-7,12-15H,8-11H2,1-5H3;1H
